US08808703B2
Step 5: (6S,9R,13R)-9-amino-13-(dodecanoyloxy)-6-methyl-8,16-dioxo-4,15-dioxa-11-thia-7-azaheptacosylphosphonic acid
A solution of (6S,9R,13R)-9-amino-13-(dodecanoyloxy)-6-methyl-8,16-dioxo-4,15-dioxa-11-thia-7-azaheptacosylphosphonic acid diethyl ester (1 eq, from the previous step) in DCM (0.1 M) was added TMSBr (10 eq) and stirred at room temperature overnight. The reaction mixture was concentrated en vaccuo. The crude mixture was purified by reverse phase high performance liquid chromatography (HPLC) with C4 column eluting with a gradient of 40-80% MeCN/10 mM NH4OAc (95:5) in 10 mM NH4OAc (pH 9). The fractions containing the product were combined and lyophilized to give the desired product as a solid. 1H NMR (DMSO-d6): δ 7.97 (d, 1H), 5.09 (m, 1H), 4.27 (dd, 1H), 4.09 (dd, 1H), 3.86 (m, 1H), 3.20-3.43 (m, 5H), 2.59-2.85 (m, 4H), 2.24-2.27 (m, 4H), 1.62-1.69 (m, 2H), 1.23-1.51 (m, 38H), 1.14 (d, 3H), 0.83-0.88 (m, 6H). LRMS [M+H]=739.4.

reactant | (6S,9R,13R)-9-amino-13-(dodecanoyloxy)-6-methyl-8,16-dioxo-4,15-dioxa-11-thia-7-azaheptacosylphosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCCOC[C@@H](NC([C@H](CSC[C@@H](COC(CCCCCCCCCCC)=O)OC(CCCCCCCCCCC)=O)N)=O)C | C40H79N2O9PS
reactant | TMSBr | 10 eq | C[Si](C)(C)Br | C3H9BrSi
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | (6S,9R,13R)-9-amino-13-(dodecanoyloxy)-6-methyl-8,16-dioxo-4,15-dioxa-11-thia-7-azaheptacosylphosphonic acid | N[C@H](C(N[C@H](COCCCP(O)(O)=O)C)=O)CSC[C@@H](COC(CCCCCCCCCCC)=O)OC(CCCCCCCCCCC)=O | C36H71N2O9PS
